US03988444
A mixture of 8.5 g of 2,3,5,6,7,8-hexahydro-4H-cycloheptathiazoline-2-one, 7 g of potassium carbonate and 200 ml of acetone was refluxed for 1 hour and after addition of 9.5 g of O,O-diethyl chlorothiophosphate thereto, the mixture was refluxed 24 hours. The mixture was filtered to remove mineral salts and the filtrate was distilled to dryness under reduced pressure. The residue was chromatographed over silica gel and elution with an 8-2 cyclohexane-ethyl acetate mixture gave 6 g of 2-(diethoxythiophosphoryloxy)-5,6,7,8-tetrahydro-4H-cycloheptathiazole with a refractive index of nD19 = 1.5246.

reactant | 2,3,5,6,7,8-hexahydro-4H-cycloheptathiazoline-2-one | 8.5 g | S1C(NC2=C1CCCCC2)=O | C8H11NOS
reactant | potassium carbonate | 7 g | C([O-])([O-])=O.[K+].[K+]
reactant | O,O-diethyl chlorothiophosphate | 9.5 g | P(=S)(OCC)(OCC)Cl | C4H10ClO2PS
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 2-(diethoxythiophosphoryloxy)-5,6,7,8-tetrahydro-4H-cycloheptathiazole | 6 g | C(C)OP(=S)(OCC)OC=1SC2=C(N1)CCCCC2 | C12H20NO3PS2
